US08283354B2
2-(4-((S)-3-(Aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol (127 mg, 0.364 mmol) was dissolved in 5 mL anhydrous DMF and cooled to 0° C., and a solution of (R)-tetrahydrofuran-3-yl chloroformate (65.4 mg, 0.436 mmol) in 200 μL DMF was added dropwise followed by the addition of triethylamine (74 mg, 0.10 mL, 0.73 mmol). The reaction was allowed to warm to room temperature. The reaction was complete after two hours. The mixture was partitioned between H2O and CH2Cl2, and separated, and the aqueous layer was extracted twice with CH2Cl2. The combined organic phases were dried over Na2SO4, filtered, and concentrated to a yellow solid. Purification via silica gel chromatography using 98% CH2Cl2/2% MeOH gave (R)-tetrahydrofuran-3-yl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate as an off white solid (116 mg, 69%). LC/MS: m/z 463.5 (M+H)+ at 2.37 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.41-8.43 (m, 1H), 7.86 (d, J=8.5 Hz, 1H), 7.65 (s, 1H), 7.33-7.44 (m, 3H), 6.90-6.95 (m, 2H), 5.11 (dd, J=6.2, 4.6 Hz, 1H), 4.38 (t, J=14.5 Hz, 2H), 3.68-3.79 (m, 3H), 3.60-3.63 (m, 1H), 3.28-3.31 (m, 1H), 2.98-3.07 (m, 3H), 2.50 (s, 3H), 2.06-2.15 (m, 1H), 1.85-1.91 (m, 4H), 1.70 (d, J=12.9 Hz, 1H), 1.24-1.37 (m, 1H).

reactant | 2-(4-((S)-3-(Aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol | 0.364 mmol, 127 mg | NC[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C21H24N4O
reactant | (R)-tetrahydrofuran-3-yl chloroformate | 0.436 mmol, 65.4 mg | ClC(=O)O[C@H]1COCC1 | C5H7ClO3
reactant | triethylamine | 0.73 mmol, 0.10 mL, 74 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 200 μL | CN(C)C=O | C3H7NO
product | (R)-tetrahydrofuran-3-yl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | O1C[C@@H](CC1)OC(NC[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C26H30N4O4
